US08466282B2
Tert-butyl (3S,5R)-3-[({5-[(2-methoxyethoxy)methyl]-1-phenyl-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
tert-Butyl (3S,5R)-3-[{[5-(hydroxymethyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (215 mg) was dissolved in DMF (3 ml), sodium hydride (50% in oil, 30 mg) was added under ice-cooling. The reaction mixture was stirred at room temperature for 30 min, 1-bromo-2-methoxyethane (55 μl) was added under ice-cooling, and the mixture was further stirred at room temperature for 14 hr. The reaction mixture was diluted with saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (10:90-100:0) was concentrated under reduced pressure to give the object product (149 mg).

reactant | tert-Butyl (3S,5R)-3-[{[5-(hydroxymethyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 215 mg | OCC1=C(N=NN1C1=CC=CC=C1)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C29H42N6O6
reactant | sodium hydride | 30 mg | [H-].[Na+]
reactant | 1-bromo-2-methoxyethane | 55 μl | BrCCOC | C3H7BrO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | Tert-butyl (3S,5R)-3-[({5-[(2-methoxyethoxy)methyl]-1-phenyl-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 149 mg | COCCOCC1=C(N=NN1C1=CC=CC=C1)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C32H48N6O7
